US07795282B2
Step A: Preparation of tert-butyl 3-(2-(3-(tert-butyldimethylsilyloxy)phenyl)-5-(2,5-difluorophenyl)-2,3-dihydro-1,3,4-thiadiazol-2-yl)propylcarbamate.
To a solution of tert-butyl 4-(3-(tert-butyldimethylsilyloxy)phenyl)-4-oxobutylcarbamate (1.400 g, 3.55 mmol) in 20 mL of a 3:1 EtOH/DCM mixture was added 2,5-difluorobenzothiohydrazide (0.704 g, 3.74 mmol). The reaction was stirred overnight at room temperature, then heated to 45° C. for 10 hours. The reaction mixture was then concentrated in vacuo, loaded directly to Biotage (45), followed by flash column chromatography (20-50% ethyl acetate/hexanes), yielding the desired product as a yellow semi-solid (1.742 g, 82%).

reactant | tert-butyl 4-(3-(tert-butyldimethylsilyloxy)phenyl)-4-oxobutylcarbamate | 3.55 mmol, 1.400 g | [Si](C)(C)(C(C)(C)C)OC=1C=C(C=CC1)C(CCCNC(OC(C)(C)C)=O)=O | C21H35NO4Si
reactant | 2,5-difluorobenzothiohydrazide | 3.74 mmol, 0.704 g | FC1=C(C(NN)=S)C=C(C=C1)F | C7H6F2N2S
solvent | EtOH DCM | 20 mL | CCO.C(Cl)Cl
product | tert-butyl 3-(2-(3-(tert-butyldimethylsilyloxy)phenyl)-5-(2,5-difluorophenyl)-2,3-dihydro-1,3,4-thiadiazol-2-yl)propylcarbamate | 1.742 g, 82% | [Si](C)(C)(C(C)(C)C)OC=1C=C(C=CC1)C1(SC(=NN1)C1=C(C=CC(=C1)F)F)CCCNC(OC(C)(C)C)=O | C28H39F2N3O3SSi
